US05580872
Step 2: 8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride
A mixture of 0.865 g (2.75 mmol) of ethyl 8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylate, from Step 1, in 12 mL of THF and 16.5 mL of a 0.5N aqueous solution of sodium hydroxide was heated, with stirring, at 75° C. for 8 hours. The THF was removed from the reaction mixture by distillation during the reaction. The concentrated reaction mixture was cooled to ambient temperature and adjusted to pH 2.0 with 10.5 mL of 1N aqueous hydrochloric acid solution. The aqueous solution was concentrated in vacuo to remove ~80% of the water and the concentrate was diluted with 50 mL of 95% ethyl alcohol. The solid was collected by filtration, washed with 2×5 mL of ethyl alcohol and dried in vacuo to afford the desired product. The product was recrystallized from ethyl alcohol/water (3:1 v/v) to afford 0.332 g (37% yield) of the title compound, m.p. 257°-258° C.; MS DCI-NH3 : 288 (M-Cl)+ 90%, 244 ((M-Cl)--CO2H)+ base, 270 (M-Cl--H2O)+ ; IR (KBr): 3420 (OH), 1645 (C=O) cm-1 ; 1H NMR (TFA) d 3.20 (m, 3H), 3.52 (dd, 2H, J=10 Hz), 4.02 (m, 4H), 4.63 (d, 2H, J=12 Hz), 7.41 (m, 2H), 7.65 (d, 1H, J=7.5 Hz), 8.26 (d, 1H, J=9 Hz), 9.18 (d, 1H, J=7.5 Hz). Analysis calculated for C15H18ClN3O3 +0.5H2O: C, 54.14; H, 5.75; N, 12.62. Found: C, 54.23; H, 5.54; N, 12.64.

reactant | ethyl 8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylate | 2.75 mmol, 0.865 g | CN1CCN(CC1)C=1C=CN2C(C(=CC=C2C1)C(=O)OCC)=O | C17H21N3O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 10.5 mL | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride | Cl.CN1CCN(CC1)C=1C=CN2C(C(=CC=C2C1)C(=O)O)=O | InChI=1S/C15H17N3O3.ClH/c1-16-6-8-17(9-7-16)11-4-5-18-12(10-11)2-3-13(14(18)19)15(20)21;/h2-5,10H,6-9H2,1H3,(H,20,21);1H
